US06468487B1
To an autoclave, 10 mmole of 1,3-dinitroadamantane obtained by the method of Example 16, 5% Pd-C (10 mole % of Pd relative to a substrate), 1 ml of dilute hydrochloric acid and 10 ml of methanol were charged. The mixture was stirred for 2 hours at 80° C. in an atmosphere of hydrogen at 30 atm. As a result, the conversion of 1,3-dinitroadamantane was 99%, and 1,3-diaminoadamantane (yield 95%) was formed.

reactant | hydrogen | [H][H] | H2
reactant | 1,3-dinitroadamantane | [N+](=O)([O-])C12CC3(CC(CC(C1)C3)C2)[N+](=O)[O-] | C10H14N2O4
product | 1,3-diaminoadamantane | yield 95% | NC12CC3(CC(CC(C1)C3)C2)N | C10H18N2
